US06329380B1
2-[(1-Benzenesulfonyl-piperidin-3-yl)-methylamino]-4-[benzimidazol-1-yl]pyrimidine
To a stirred solution of 2-[(piperidin-3-yl)-methylamino]-4-[benzimidazol-1-yl]pyrimidine (20 mg, 0.065 mmol, 1 eq) in THF (1 mL) at 0° C. was added diisopropylethylamine (0.023 mL, 0.13 mmol, 2 eq) followed by addition of benzenesulfonylchloride (0.009 mL, 0.071 mmol, 1.1 eq) via syringe. Removed the cooling bath and let stir for 1 h. Quenched the reaction with saturated aqueous NaHCO3 and extracted 3× with CH2Cl2. Combined the organic extracts, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by preparative thin layer chromatography (eluted with 2:1 hexanes/acetone) to give 14 mg of the title compound. 1H NMR (500 MHz, CDCl3): δ 1.1-1.2 (1H, m), 1.6-1.9 (4H, m), 2.12 (1H, m), 2.42 (1H, t, J=10 Hz), 2.57 (1H, t, J=10 Hz), 3.4-3.6 (2H, m), 3.63 (1H, d, J=8.5 Hz), 5.6 (1H, br s), 6.84 (1H, d, J=5.5 Hz), 7.3-7.8 (7H, m), 7.88 (1H, d, J=7 Hz), 8.18 (1H, d, J=7 Hz), 8.41 (1H, d, J=5.5 Hz), 8.62 (1H, s). Mass spectrum (CI) 449.1 (M+1).

reactant | 2-[(piperidin-3-yl)-methylamino]-4-[benzimidazol-1-yl]pyrimidine | 0.065 mmol, 20 mg, 1 eq | N1CC(CCC1)N(C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2)C | C17H20N6
reactant | diisopropylethylamine | 0.13 mmol, 0.023 mL, 2 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzenesulfonylchloride | 0.071 mmol, 0.009 mL, 1.1 eq | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-[(1-Benzenesulfonyl-piperidin-3-yl)-methylamino]-4-[benzimidazol-1-yl]pyrimidine | 14 mg | C1(=CC=CC=C1)S(=O)(=O)N1CC(CCC1)N(C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2)C | C23H24N6O2S
